US06225309B1
Using an analogous procedure to that described in Example 2, 2-amino-N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide hydrochloride salt was reacted with 4-toluenesulphonyl chloride to give N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}-2-(4-toluenesulphonamido)aceta mide in S0 yield as a foam;

reactant | 2-amino-N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide hydrochloride salt | Cl.NCC(=O)NC(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1
reactant | 4-toluenesulphonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-{1-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}-2-(4-toluenesulphonamido)aceta mide | N1(CCCCC1)C(=O)C(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)NC(CNS(=O)(=O)C1=CC=C(C=C1)C)=O | C28H38N6O5S
